US05990261
In an example of the process (i), 3,5-dinitrobenzotrifluoride is condensed with m-nitrophenol in the presence of a base, in an aprotic solvent, to give 1,3-bis(3-nitrophenoxy)-5-trifluoromethylbenzene, which is then reduced to 1,3-bis(3-aminophenoxy)-5-trifluoromethylbenzene, in a high yield.

reactant | 3,5-dinitrobenzotrifluoride | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C(F)(F)F | C7H3F3N2O4
reactant | m-nitrophenol | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
product | 1,3-bis(3-nitrophenoxy)-5-trifluoromethylbenzene | [N+](=O)([O-])C=1C=C(OC2=CC(=CC(=C2)C(F)(F)F)OC2=CC(=CC=C2)[N+](=O)[O-])C=CC1 | C19H11F3N2O6
